US08426449B2
Step 5: {3-[2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
(3-{4-Amino-2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester (0.1 g, 0.19 mmol), 4-chlorobenzoyl chloride (0.1 g, 0.57 mmol), and triethylamine (0.5 mL, 3.6 mmol) were combined in CH2Cl2 (10 mL) and stirred at room temperature for 20 minutes. The mixture was concentrated to give the title compound.

reactant | (3-{4-Amino-2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | 0.19 mmol, 0.1 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O6
reactant | 4-chlorobenzoyl chloride | 0.57 mmol, 0.1 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 3.6 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | {3-[2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C35H35ClN2O7
